US04482553
A solution of 2.6 g of methylthio α-oxo-α-(5-chloro-2-benzothienyl)acetate in 180 ml of methanol containing 840 mg of hydroxylamine hydrochloride and 10 ml of 1N sodium hydroxide was stirred at 25° C. for sixteen hours. The reaction solvent was removed by evaporation under reduced pressure to give an oil. The oil was dissolved in 100 ml of ethyl acetate and 100 ml of water, and the mixture was made alkaline to pH 10.4 by addition of 1N sodium hydroxide. The aqueous layer was separated, washed with fresh ethyl acetate, and then made acidic to pH 2 by addition of 1N hydrochloric acid. The aqueous acid mixture was extracted with fresh ethyl acetate, which was then washed with water, dried and the solvent was removed to provide 2.5 g of α-methoxyimino-α-(5-chloro-2-benzothienyl)acetic acid.

reactant | methylthio α-oxo-α-(5-chloro-2-benzothienyl)acetate | 2.6 g | O=C(C(=O)OSC)C=1SC2=C(C1)C=C(C=C2)Cl | C11H7ClO3S2
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | methanol | 180 ml, 840 mg | CO | CH4O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | α-methoxyimino-α-(5-chloro-2-benzothienyl)acetic acid | 2.5 g | CON=C(C(=O)O)C=1SC2=C(C1)C=C(C=C2)Cl | C11H8ClNO3S
